US05210092
To a solution of 1-(4-methylphenyl)pyrrole-2-carbonitrile (1.0 g) in acetic anhydride (4 ml) was added nitric acid (231 μl, 94%) dropwise at 5° C. The mixture was stirred at the same temperature for 3 hours and then poured into ice water. The pH was adjusted to 5-7 by the addition of saturated aqueous sodium bicarbonate solution. The separated oil was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, water and brine, dried, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography to yield 1-(4-methylphenyl)-4-nitropyrrole-2-carbonitrile (471 mg) as a solid.

reactant | 1-(4-methylphenyl)pyrrole-2-carbonitrile | 1.0 g | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | nitric acid | 231 μl | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-methylphenyl)-4-nitropyrrole-2-carbonitrile | 471 mg | CC1=CC=C(C=C1)N1C(=CC(=C1)[N+](=O)[O-])C#N | C12H9N3O2
